US08217065B2
C. 6-(5-tert-Butyl-[1,2,4]oxadiazol-3-yl)-2-(2,6-dichloro-phenyl)-1H-benzoimidazole
To a 25 ml rbf was added 0.111 g (0.347 mmol) of 2-(2,6-Dichloro-phenyl)-N-hydroxy-3H-benzoimidazole-5-carboxamidine, 2.5 mL of pivalic anhydride (solvent). It was allowed to stir at 100° C. for 18 h. It was cooled to room temperature and extracted with EtOAc. The organic layer was washed with water, 1N KOH, and brine. It was dried with MgSO4 and the volatiles were removed in vacuo. The crude was purified on silica gel column chromatography (EtOAc/Hep, 1:9 to 5:5) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48 (s, 9 H) 7.62-7.67 (m, 1 H) 7.68-7.76 (m, 2.5 H) 7.84-7.98 (m, 1.5 H) 8.18 (br. s., 0.5 H) 8.32 (br. s., 0.5 H) 13.20 (br. s., 1 H). MS (m/z) 387.1 M (+1), tR=1.55, Meth 10

reactant | 2-(2,6-Dichloro-phenyl)-N-hydroxy-3H-benzoimidazole-5-carboxamidine | 0.347 mmol, 0.111 g | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=N)NO | C14H10Cl2N4O
reactant | pivalic anhydride | 2.5 mL | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | 6-(5-tert-Butyl-[1,2,4]oxadiazol-3-yl)-2-(2,6-dichloro-phenyl)-1H-benzoimidazole | C(C)(C)(C)C1=NC(=NO1)C=1C=CC2=C(NC(=N2)C2=C(C=CC=C2Cl)Cl)C1 | C19H16Cl2N4O
